US06521754B2
1-Acetyl-piperidine-4-carboxylic acid (4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-amide
Using 2-amino-4-methoxy-7-morpholin-4-yl-benzothiazol and 1 -acetyl-piperidine-4-carbonyl chloride the title compound was obtained as a white solid (22%), MS: m/e=419(M+H+).

reactant | 2-amino-4-methoxy-7-morpholin-4-yl-benzothiazol | NC=1SC2=C(N1)C(=CC=C2N2CCOCC2)OC | C12H15N3O2S
reactant | 1 -acetyl-piperidine-4-carbonyl chloride | C(C)(=O)N1CCC(CC1)C(=O)Cl | C8H12ClNO2
product | 1-Acetyl-piperidine-4-carboxylic acid (4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-amide | COC1=CC=C(C2=C1N=C(S2)NC(=O)C2CCN(CC2)C(C)=O)N2CCOCC2 | C20H26N4O4S
